US08258130B2
A suspended solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (2-methyl-2,3-dihydro-indol-1-yl)-amide (0.98 mmol) and MnO2 (4.88 mmol) in DCM (15 mL) is stirred at rt for 2 h. The reaction mixture is filtered and the filtrate is concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-40% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (2-methyl-indol-1-yl)-amide (230 mg, 97%) as a solid. MS: 347 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.08-2.40 (m, 3H), 6.27 (s, H), 6.95-7.35 (m, 4H), 7.36-7.65 (m, 2H), 8.20-8.44 (m, 2H), 8.49-9.20 (d, 2H). IC50=6 nM.

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (2-methyl-2,3-dihydro-indol-1-yl)-amide | 0.98 mmol | CC1N(C2=CC=CC=C2C1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C20H17FN4O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 4.88 mmol | O=[Mn]=O
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (2-methyl-indol-1-yl)-amide | 230 mg, 97% | CC=1N(C2=CC=CC=C2C1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C20H15FN4O
